* C:\Users\lucasp\Projects\CMOS-project\edge-triggered_PWM_generator.asc
* Generated by LTspice 26.0.1 for Windows.
I1 input 0 {Iref}
V1 VDD 0 3.3 Rser=0
R1 input 0 10G
V2 CLK 0 PULSE(0 3.3 1u 1n 1n 5u 10u) Rser=0
C_load output 0 2p
X§X1 N004 CLK edge_sig VDD 0 my_xor
X§X2 CLK N001 VDD 0 my_inverter
X§X3 N001 N002 VDD 0 my_inverter
X§X4 N002 N003 VDD 0 my_inverter
X§X5 N003 N004 VDD 0 my_inverter
C1 N001 0 20f
C2 N002 0 20f
C3 N003 0 20f
C4 N004 0 20f
X§X6 edge_sig input st_sig VDD 0 my_sawtooth_gen
X§X9 N007 edge_sig NC_01 weak_pwm VDD 0 my_sr_latch
V4 _reset 0 PWL(0 0 1.1u 0 1.110u 3.3 1000m 3.3)
X§X10 _reset CLK 180deg_CLK 270deg_CLK 90deg_CLK VDD 0 my_dll
X§X7 st_sig N006 VDD 0 my_balanced_inverter
X§X8 N006 N007 VDD 0 my_balanced_inverter
V3 N005 0 1.65

* block symbol definitions
.subckt my_xor A B OUT VDD VSS
M1 VDD A N001 VDD PMOS_SME l=0.35u w=1u
M2 OUT A N003 VSS NMOS_SME l=0.35u w=0.4u
X§U1 A NOT_A VDD VSS my_inverter
X§U2 B NOT_B VDD VSS my_inverter
M3 N001 NOT_B OUT VDD PMOS_SME l=0.35u w=1u
M4 VDD B N002 VDD PMOS_SME l=0.35u w=1u
M5 N002 NOT_A OUT VDD PMOS_SME l=0.35u w=1u
M6 N003 B VSS VSS NMOS_SME l=0.35u w=0.4u
M7 OUT NOT_A N004 VSS NMOS_SME l=0.35u w=0.4u
M8 N004 NOT_B VSS VSS NMOS_SME l=0.35u w=0.4u
.inc library.mod
.ends my_xor

.subckt my_inverter IN OUT VDD VSS
M3 VDD IN OUT VDD PMOS_SME l=0.35u w=0.4u
M4 OUT IN VSS VSS NMOS_SME l=0.35u w=0.4u
.inc library.mod
.ends my_inverter

.subckt my_sawtooth_gen IN IREF OUT VDD VSS
M1 VDD IREF OUT VDD PMOS_SME l=2u w=1u
C1 OUT VSS 272.7f
M2 OUT IN VSS VSS NMOS_SME l=0.35u w=1.8u
M3 VDD IREF IREF VDD PMOS_SME l=2u w=10u
M4 VDD IREF IREF VDD PMOS_SME l=2u w=1u
M5 VDD IREF IREF VDD PMOS_SME l=2u w=1u
M6 VDD IREF IREF VDD PMOS_SME l=2u w=1u
M7 VDD IREF IREF VDD PMOS_SME l=2u w=1u
M8 VDD IREF IREF VDD PMOS_SME l=2u w=1u
M9 VDD IREF IREF VDD PMOS_SME l=2u w=1u
M10 VDD IREF IREF VDD PMOS_SME l=2u w=1u
M11 VDD IREF IREF VDD PMOS_SME l=2u w=1u
M12 VDD IREF IREF VDD PMOS_SME l=2u w=1u
.inc library.mod
.ends my_sawtooth_gen

.subckt my_sr_latch R S NOT_Q Q VDD VSS
X§X1 S Q NOT_Q VDD VSS my_nor
X§X2 NOT_Q R Q VDD VSS my_nor
.inc library.mod
.ends my_sr_latch

.subckt my_dll _RESET CLK 180degCLK 270degCLK 90degCLK VDD VSS
X§X1 feedback_clk CLK down up VDD VSS _RESET my_pfd
X§X3 down up vctrl VDD VSS my_cp
M1 vctrl rst_h VSS VSS NMOS_SME l=0.35u w=0.4u
X§X2 _RESET rst_h VDD VSS my_inverter
X§X4 CLK vctrl 180clk 270clk 90clk feedback_clk VDD VSS my_vcdl
X§X6 90clk 90degCLK VDD VSS my_schmitt_trigger
X§X7 180clk 180degCLK VDD VSS my_schmitt_trigger
X§X8 270clk 270degCLK VDD VSS my_schmitt_trigger
M2 vctrl VSS vctrl vctrl PMOS_SME l=10u w=22u
.inc library.mod
.ends my_dll

.subckt my_balanced_inverter IN OUT VDD VSS
M3 VDD IN OUT VDD PMOS_SME l=0.35u w=1u
M4 OUT IN VSS VSS NMOS_SME l=0.35u w=0.4u
.inc library.mod
.ends my_balanced_inverter

.subckt my_nor A B OUT VDD VSS
M1 VDD A N001 VDD PMOS_SME l=0.35u w=0.4u
M2 N001 B OUT VDD PMOS_SME l=0.35u w=0.4u
M3 OUT B VSS VSS NMOS_SME l=0.35u w=0.4u
M4 OUT A VSS VSS NMOS_SME l=0.35u w=0.4u
.inc library.mod
.ends my_nor

.subckt my_pfd FDBCK REF DOWN UP VDD VSS _RESET
X§X1 VDD REF ff_reset NC_01 UP VDD VSS DFRRLHDX1
X§X2 VDD FDBCK ff_reset NC_02 DOWN VDD VSS DFRRLHDX1
X§X3 UP DOWN reset VDD VSS my_nand
X§X4 _RESET N001 ff_reset VDD VSS my_and
X§X5 reset N002 VDD VSS my_buffer
X§X6 N002 N001 VDD VSS my_buffer
.inc library.mod
.ends my_pfd

.subckt my_cp DOWN UP OUT VDD VSS
M1 VDD N001 N002 VDD PMOS_SME l=5u w=0.8u
M2 OUT DOWN_delayed N004 VSS NMOS_SME l=0.35u w=0.4u
M3 N002 N003 OUT VDD PMOS_SME l=0.35u w=0.4u
M4 N004 iref VSS VSS NMOS_SME l=5u w=0.4u
M5 VDD N001 N001 VDD PMOS_SME l=5u w=16u
M6 N001 iref VSS VSS NMOS_SME l=5u w=8u
M7 iref iref VSS VSS NMOS_SME l=5u w=8u
X§X1 UP N003 VDD VSS my_inverter
M8 iref VSS VDD VDD PMOS_SME l=50u w=0.4u
M9 DOWN VDD DOWN_delayed VSS NMOS_SME l=0.35u w=0.4u
M10 DOWN VSS DOWN_delayed VDD PMOS_SME l=0.35u w=0.4u
.inc library.mod
.ends my_cp

.subckt my_vcdl REF_CLK V_CTRL 180_CLK 270_CLK 90_CLK OUT_CLK VDD VSS
M9 VDD VBP VBP VDD PMOS_SME l=2u w=2u
M10 VBP V_CTRL VSS VSS NMOS_SME l=2u w=0.4u
X§X1 REF_CLK cap_1_1 VDD VSS VBP VBN my_current_starved_inverter
X§X2 90_CLK cap_2_1 VDD VSS VBP VBN my_current_starved_inverter
X§X3 180_CLK cap_3_1 VDD VSS VBP VBN my_current_starved_inverter
X§X4 270_CLK cap_4_1 VDD VSS VBP VBN my_current_starved_inverter
X§X5 cap_1_1 cap_1_2 VDD VSS VBP VBN my_current_starved_inverter
X§X6 cap_2_1 cap_2_2 VDD VSS VBP VBN my_current_starved_inverter
X§X7 cap_3_1 cap_3_2 VDD VSS VBP VBN my_current_starved_inverter
X§X8 cap_4_1 cap_4_2 VDD VSS VBP VBN my_current_starved_inverter
X§X9 cap_1_2 90_CLK VDD VSS my_schmitt_trigger
X§X10 cap_2_2 180_CLK VDD VSS my_schmitt_trigger
X§X11 cap_3_2 270_CLK VDD VSS my_schmitt_trigger
X§X12 cap_4_2 OUT_CLK VDD VSS my_schmitt_trigger
M11 VBN VBN VSS VSS NMOS_SME l=2u w=0.4u
M12 VDD VBP VBN VDD PMOS_SME l=2u w=2u
M4 VSS cap_1_1 VSS VSS NMOS_SME l={CAP_L} w={CAP_W}
M1 VSS cap_1_2 VSS VSS NMOS_SME l={CAP_L} w={CAP_W}
M2 VSS cap_2_1 VSS VSS NMOS_SME l={CAP_L} w={CAP_W}
M3 VSS cap_2_2 VSS VSS NMOS_SME l={CAP_L} w={CAP_W}
M5 VSS cap_3_1 VSS VSS NMOS_SME l={CAP_L} w={CAP_W}
M6 VSS cap_3_2 VSS VSS NMOS_SME l={CAP_L} w={CAP_W}
M7 VSS cap_4_1 VSS VSS NMOS_SME l={CAP_L} w={CAP_W}
M8 VSS cap_4_2 VSS VSS NMOS_SME l={CAP_L} w={CAP_W}
.inc library.mod
.param CAP_L=10u CAP_W=11u
.ends my_vcdl

.subckt my_schmitt_trigger IN OUT VDD VSS
M1 VDD IN N001 VDD PMOS_SME l=0.35u w=2u
M2 n_inv IN N002 VSS NMOS_SME l=0.35u w=1u
M3 N001 IN n_inv VDD PMOS_SME l=0.35u w=2u
M4 N002 IN VSS VSS NMOS_SME l=0.35u w=1u
M5 VSS n_inv N001 VDD PMOS_SME l=0.35u w=0.8u
M6 N002 n_inv VDD VSS NMOS_SME l=0.35u w=0.4u
X§X1 n_inv OUT VDD VSS my_inverter
.inc library.mod
.ends my_schmitt_trigger

.subckt DFRRLHDX1 D C RN QN Q VDD VSS
M1 vdd D N001 vdd PMOS_SME l=350n w=1u
M2 N001 CI MQIB vdd PMOS_SME l=350n w=1u
M3 MQIB CIB N005 vss NMOS_SME l=350n w=700n
M4 N005 D N010 vss NMOS_SME l=350n w=700n
M5 vdd MQI N002 vdd PMOS_SME l=350n w=500n
M6 N002 CIB MQIB vdd PMOS_SME l=350n w=500n
M7 MQIB CI N006 vss NMOS_SME l=350n w=500n
M8 N006 MQI N010 vss NMOS_SME l=350n w=500n
M9 N010 RN vss vss NMOS_SME l=350n w=700n
M10 vdd RN MQIB vdd PMOS_SME l=350n w=1u
M11 vdd MQIB MQI vdd PMOS_SME l=350n w=1u
M12 MQI MQIB vss vss NMOS_SME l=350n w=700n
M13 vdd MQI N003 vdd PMOS_SME l=350n w=900n
M14 N003 CIB SQIB vdd PMOS_SME l=350n w=900n
M15 SQIB CI N007 vss NMOS_SME l=350n w=700n
M16 N007 MQI N009 vss NMOS_SME l=350n w=700n
M17 vdd SQI N004 vdd PMOS_SME l=350n w=500n
M18 N004 CI SQIB vdd PMOS_SME l=350n w=500n
M19 SQIB CIB N008 vss NMOS_SME l=350n w=500n
M20 N008 SQI N011 vss NMOS_SME l=350n w=500n
M21 N011 RN vss vss NMOS_SME l=350n w=550n
M22 vdd RN SQIB vdd PMOS_SME l=350n w=1u
M23 vdd SQIB SQI vdd PMOS_SME l=350n w=1u
M24 SQI SQIB vss vss NMOS_SME l=350n w=700n
M25 N009 RN vss vss NMOS_SME l=350n w=700n
M26 vdd C CIB vdd PMOS_SME l=350n w=1u
M27 CIB C vss vss NMOS_SME l=350n w=700n
M28 vdd CIB CI vdd PMOS_SME l=350n w=1u
M29 CI CIB vss vss NMOS_SME l=350n w=700n
M32 vdd SQIB Q vdd PMOS_SME l=350n w=1u
M33 Q SQIB vss vss NMOS_SME l=350n w=700n
M34 vdd SQI QN vdd PMOS_SME l=350n w=1u
M35 QN SQI vss vss NMOS_SME l=350n w=700n
.ends DFRRLHDX1

.subckt my_nand A B OUT VDD VSS
M1 N001 B VSS VSS NMOS_SME l=0.35u w=0.4u
M2 VDD A OUT VDD PMOS_SME l=0.35u w=0.4u
M3 VDD B OUT VDD PMOS_SME l=0.35u w=0.4u
M4 OUT A N001 VSS NMOS_SME l=0.35u w=0.4u
.inc library.mod
.ends my_nand

.subckt my_and A B OUT VDD VSS
X§X1 A B N001 VDD VSS my_nand
X§X2 N001 OUT VDD VSS my_inverter
.inc library.mod
.ends my_and

.subckt my_buffer IN OUT VDD VSS
X§X1 IN N001 VDD VSS my_inverter
X§X2 N001 OUT VDD VSS my_inverter
.ends my_buffer

.subckt my_current_starved_inverter IN OUT VDD VSS VBP VBN
M3 N002 IN OUT VDD PMOS_SME l=0.35u w=1.2u
M4 OUT IN N003 VSS NMOS_SME l=0.35u w=0.4u
M1 N001 VBP N002 VDD PMOS_SME l=2u w=2.35u
M2 N003 VBN N004 VSS NMOS_SME l=2u w=0.4u
M5 N004 VBN VSS VSS NMOS_SME l=2u w=0.4u
M6 VDD VBP N001 VDD PMOS_SME l=2u w=2.35u
.inc library.mod
.ends my_current_starved_inverter

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\lucasp\AppData\Local\LTspice\lib\cmp\standard.mos
.param Iref_bk 5uA
.inc library.mod
.tran 0 20u 0 20n
* Edge-triggered Pulse-Width Modulation (PWM) generator
* rise/fall time (10% -> 90%)\nshould be below 10 ns
* Sweep Iref in {1uA, 3uA, 5uA, 7uA, 9uA}
* Explain which electrical parameters define the output pulse-width
* 100kHz input clock
* Lucas Placentino 2026
* 1. edge detector (both rising and falling)
* 2. current-controlled sawtooth signal generator, thresholded, then through an S-R latch => weak PWM signal
* SR latch
* 3. buffer chain...
* Input clock (100kHz)
* Perfect voltage \nsource (3.3V)
* Capacitive load at output (2pF)
* Input reference \ncurrent (1 to 9uA)
* 90° phase shift based on delay-locked loop (DLL)
* custom\nDLL
* EXTRA FEATURES
* "include an asynchronous active low reset (via an additional voltage source which is either high (3.3V) or low (0V) over time)"
* use the inverter's\n1.65V threshold
* LOW for a very short while (e.g. 1.1us) then HIGH indefinitely
.step param Iref 1u 9uA 2uA
* TODO: DELETE\n(just for graph)
.backanno
.end
